US07576092B2
Step C: 4-Chloro-benzo[4,5]thieno[3,2-d]pyrimidin-2-ylamine.
A suspension of 2-amino-benzo[4,5]thieno[3,2-d]pyrimidin-4-ol hydrochloride (179 mg, 0.7 mmol), POCl3 (1.5 mL), and N,N-dimethylaniline (0.15 mL) was heated at 110° C. for 3 h. The mixture was cooled to rt and the resulting suspension was added dropwise to a 0° C. solution of aq. NH4OH (19 g/L; 30 mL). The suspension was filtered and the collected solid dried to yield 87 mg (52%) of a crude solid, which was immediately used without purification.

reactant | 2-amino-benzo[4,5]thieno[3,2-d]pyrimidin-4-ol hydrochloride | 0.7 mmol, 179 mg | Cl.NC=1N=C(C2=C(N1)C1=C(S2)C=CC=C1)O
reactant | POCl3 | 1.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 0.15 mL | CN(C1=CC=CC=C1)C | C8H11N
solvent | NH4OH | 30 mL | [NH4+].[OH-]
product | 4-Chloro-benzo[4,5]thieno[3,2-d]pyrimidin-2-ylamine | 87 mg, 52% | ClC=1C2=C(N=C(N1)N)C1=C(S2)C=CC=C1 | C10H6ClN3S
